US04560685
6-Ethoxy-2-piperazino-4,7-bis-(thiomorpholino)-pteridine
This compound was prepared analogous to Example 3 from 6-chloro-2-piperazino-4,7-bis-(thiomorpholino)pteridine and ethanol.

reactant | 6-chloro-2-piperazino-4,7-bis-(thiomorpholino)pteridine | ClC=1N=C2C(=NC(=NC2=NC1N1CCSCC1)N1CCNCC1)N1CCSCC1 | C18H25ClN8S2
reactant | ethanol | C(C)O | C2H6O
product | 6-Ethoxy-2-piperazino-4,7-bis-(thiomorpholino)-pteridine | C(C)OC=1N=C2C(=NC(=NC2=NC1N1CCSCC1)N1CCNCC1)N1CCSCC1 | C20H30N8OS2
